US08034812B2
Production of (2E)-N-(5-hydroxy-2-methylphenyl)but-2-ene amide
In the same manner as in Example 259 and using (2E)-but-2-enoic acid (1680 mg, 19 mmol), tetrahydrofuran (5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (1670 μL, 19 mmol), 3-amino-4-methylphenol (2000 mg, 16 mmol) and N,N-dimethylacetamide (35 mL) as starting materials, the title compound (1830 mg, 59%) was obtained as a white solid.

reactant | (2E)-but-2-enoic acid | 19 mmol, 1680 mg | C(\C=C\C)(=O)O | C4H6O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 19 mmol, 1670 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-amino-4-methylphenol | 16 mmol, 2000 mg | NC=1C=C(C=CC1C)O | C7H9NO
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 35 mL | CN(C(C)=O)C | C4H9NO
product | (2E)-N-(5-hydroxy-2-methylphenyl)but-2-ene amide | 1830 mg, 59% | OC=1C=CC(=C(C1)NC(\C=C\C)=O)C | C11H13NO2
